US09029370B2
To a stirred solution of 2-chloro-1-(4-bromo-3-fluoro-phenyl)-ethanone (6.16 g) in ethanol (100 ml) at 5° C. was added portionwise over 5 min NaBH4 (788 mg). The reaction mixture was then stirred at room temperature for 1 hour to afford a light yellow solution. TLC analysis showed the reaction was complete. Sodium methoxide (562 mg) was then added and the reaction mixture was stirred at room temperature overnight. TLC analysis showed a small amount of starting material remaining and so the reaction mixture was stirred at 40° C. for 1 h. The reaction mixture was then poured into water and extracted twice with EtOAc. The combined organic layers were washed with saturated brine, then dried over Na2SO4 and concentrated in vacuo to afford (RS)-2-(4-bromo-3-fluoro-phenyl)-oxirane (4.69 g) as a yellow oil which was used in the next step without further purification.

reactant | 2-chloro-1-(4-bromo-3-fluoro-phenyl)-ethanone | 6.16 g | ClCC(=O)C1=CC(=C(C=C1)Br)F | C8H5BrClFO
reactant | NaBH4 | 788 mg | [BH4-].[Na+]
reactant | Sodium methoxide | 562 mg | C[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (RS)-2-(4-bromo-3-fluoro-phenyl)-oxirane | 4.69 g | BrC1=C(C=C(C=C1)C1OC1)F | C8H6BrFO
